US08431538B2
6-Carbazol-9-yl-hexanoic acid ethyl ester (14)
Carbazole (2.0 g, 12.0 mmol) and sodium hydride (60 wt. % in mineral oil, 0.29 g, 12.0 mmol) were placed under argon and dissolved in DMF (5 mL). After stirring for 30 minutes, 6-bromo-hexanoic acid ethyl ester (2.0 mL, 12.0 mmol) and potassium iodide (10 mg) were added to the reaction. The reaction was heated to 80° C. for 2 h. The reaction was then quenched with water (30 mL) followed by addition of ethyl acetate (30 mL). The organic layer was isolated and the aqueous layer extracted with ethyl acetate (2×10 mL). The combined organic layers were washed with water (2×20 mL), brine (15 mL), dried (Na2SO4) and concentrated in vacuo. Purification by column chromatography (0-80% gradient of ethyl acetate in hexane) afforded the title compound (2.7 g, 73%) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ 8.13 (d, 2H, J=7.7 Hz), 7.56 (d, 2H, J=8.2 Hz), 7.42 (m, 2H), 7.26 (m, 2H), 4.34 (t, 2H, J=7.0 Hz), 4.13 (q, 2H, J=7.1H), 2.29 (t, 2H, J=7.3 Hz), 1.93 (m, 2H), 1.70 (m, 2H), 1.45 (m, 2H), 1.25 (t, 3H, J=7.1 Hz). 13C NMR (100 MHz, DMSO): δ 173.1, 140.4, 126.1, 122.5, 120.7, 119.0, 109.6, 60.0, 42.5, 33.8, 28.7, 26.4, 24.7, 14.5. ESI-HRMS (m/z): [M+H]+ calcd. for C20H23NO2, 310.1802. found, 310.1792.

reactant | Carbazole | 12.0 mmol, 2.0 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium hydride | 12.0 mmol, 0.29 g | [H-].[Na+]
reactant | 6-bromo-hexanoic acid ethyl ester | 12.0 mmol, 2.0 mL | C(C)OC(CCCCCBr)=O | C8H15BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 10 mg | [I-].[K+]
product | 6-Carbazol-9-yl-hexanoic acid ethyl ester | 2.7 g, 73% | C(C)OC(CCCCCN1C2=CC=CC=C2C=2C=CC=CC12)=O | C20H23NO2
